US07229750B2
To 54.6 g of 5-formylsalicylic acid, was added 500 mL of methanol, and then 36 mL of thionyl chloride was slowly added dropwise to the mixture. After the mixture was refluxed under heating for 5 hours, the solvents were distilled off. 600 mL of ethyl acetate and an aqueous sodium chloride solution were added to the mixture, to extract the organic phase, which was then dried over sodium sulfate, followed by distilling off the solvents, to give 58.7 g of methyl 5-formylsalicylate. 500 mL of acetone was added to this methyl ester, and then 67.6 g of potassium carbonate and 30 mL of methyl iodide were added to the mixture, which was then refluxed under heating for 6 hours. The precipitated salt was separated by filtration, and then the solvents were distilled off. Then, 200 mL of chloroform and 100 mL of an aqueous 5% potassium carbonate solution were added to the salt, to extract the organic phase, which was then dried over sodium sulfate, and then the solvents were distilled off. 100 mL of ethanol was added to the residue, and the precipitated crystals were collected by filtration, to give 14.5 g of methyl 5-formyl-2-methoxybenzoate. To the methyl 5-formyl-2-methoxybenzoate, was added 80 mL of methanol, and then gradually added 2.8 g of sodium borohydride under cooling with ice. The mixture was stirred at room temperature for 4 hours, and then the solvent was distilled off. Ethyl acetate and dilute hydrochloric acid were added to the residue, to extract the organic phase, which was then washed with an aqueous sodium chloride solution. Then, sodium sulfate was added, to dry the organic phase. The solvents were distilled off, to give 12.8 g of methyl 5-hydroxymethyl-2-methoxybenzoate. A solution prepared by dissolving 1.8 g of thionyl chloride and 1.8 g of 1,2,3-benzotriazole in 10 mL of methylene chloride was added to a solution prepared by adding 10 mL of methylene chloride to 2 g of methyl 5-hydroxymethyl-2-methoxybenzoate. The precipitated depositions were separated by filtration, and then an aqueous sodium chloride solution was added thereto, to wash the organic phase, which was then dried by adding sodium sulfate, followed by distilling solvents, to give 2 g of methyl 5-chloromethyl-2-methoxybenzoate. To the resulting product, were added 20 mL of acetone and 920 mg of selenourea. The mixture was refluxed under heating for one hour and then cooled with ice. The precipitated crystals were collected by filtration. To 3.8 g of the resulting crystals were added 2.42 g of methyl 5-chloromethyl-2-methoxybenzoate and 100 mL of acetone. Then, a solution prepared by dissolving 1.27 g of potassium hydroxide in 10 mL of water was added dropwise to the mixture, which was then stirred at room temperature for 0.5 hours, followed by distilling the solvents off. Ethyl acetate and an aqueous sodium chloride solution were added thereto, to extract the organic phase, which was then dried over magnesium sulfate, followed by distilling the solvents off. The residue was purified by silica gel column chromatography, to give 3.7 g of Exemplified compound 65.

reactant | 5-formylsalicylic acid | 54.6 g | C(=O)C1=CC=C(C(C(=O)O)=C1)O | C8H6O4
reactant | thionyl chloride | 36 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 500 mL | CO | CH4O
product | methyl 5-formylsalicylate | 58.7 g | C(=O)C1=CC=C(C(C(=O)OC)=C1)O | C9H8O4
